US08835426B2
To a solution of 1-(4-(benzyloxy)phenyl)-2-((1-adamantylmethyl)amino)ethanol (0.8 g, 2.05 mmol) in MeOH (10 mL) was added Pd(OH)2 (80 mg). The mixture was stirred at rt under H2 for 30 min. The mixture was filtered and concentrated to give 4-(2-((1-adamantylmethyl)amino)-1-hydroxyethyl)phenol (0.5 g, yield: 81%). 1H NMR: (CDCl3, 400 MHz) δ=1.53 (m, 6H), 1.65 (m, 6H), 1.97 (m, 3H), 2.26 & 2.36 (dd, 2H), 2.62&2.83 (dd, 2H), 4.60 (m, 1H), 6.78 (m, 2H), 7.22 (m, 2H).

reactant | 1-(4-(benzyloxy)phenyl)-2-((1-adamantylmethyl)amino)ethanol | 2.05 mmol, 0.8 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CNCC12CC3CC(CC(C1)C3)C2)O | C26H33NO2
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd(OH)2 | 80 mg | [OH-].[OH-].[Pd+2]
product | 4-(2-((1-adamantylmethyl)amino)-1-hydroxyethyl)phenol | 0.5 g, yield: 81% | C12(CC3CC(CC(C1)C3)C2)CNCC(O)C2=CC=C(C=C2)O | C19H27NO2
